US06087389
(1RS,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
Ethyl (RS)-1-(4-Methoxyphenyl)-3-(3,4-methylene-dioxyphenyl)indene-2-carboxylate. To a solution of ethyl (1RS)-1-hydroxy-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-indene-2-carboxylate (0.80 g, 1.9 mmol) in CH2Cl2 (10 ml) at 0° C. under an argon atmosphere was added triethylsilane (0.28 g, 2.4 mmol), followed by boron trfluoride etherate (1 ml, 8.1 mmol). The resulting solution was stirred at 0° C. for 10 min, and was then partitioned between EtOAc and 3 M HCl. The organic extract was washed with saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo, and the residue was filtered through a pad of silica gel, eluting with CH2Cl2. The title compound (mixture of Δ1 and Δ2 double bond isomers) was obtained as a glassy, yellow solid (0.72 g, 94%).

reactant | ethyl (1RS)-1-hydroxy-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-indene-2-carboxylate | 1.9 mmol, 0.80 g | OC1(C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC)C2=CC=C(C=C2)OC | C26H22O6
reactant | triethylsilane | 2.4 mmol, 0.28 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron | [B] | B
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (1RS,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
